US06943180B2
To a solution of N-trityl-3-hydroxy-(L)-proline, benzyl ester (8.8 g, 19 mmol) in CH2Cl2 (50 mL) was added 4-methylmorpholine N-oxide (4.5 g, 38 mmol) and 3Å molecular sieves (3 g). After stirring at rt for 15 min, the reaction mixture was cooled to 0° C., and was added tetrapropylammonium perruthenate (1.0 g, 2.8 mmol). After stirring at rt for 15 min, the reaction mixture was filtered through a pad of silica gel, and the filtrate was concentrated in vacuo to dryness. The residue was dissolved in Et2O (100 mL), and was filtered through a pad of silica gel. The filtrate was concentrated in vacuo to dryness to yield N-trityl-3-keto-(L)-proline, benzyl ester (6.5 g, 74%).

reactant | N-trityl-3-hydroxy-(L)-proline, benzyl ester | 19 mmol, 8.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1[C@H](C(=O)OCC2=CC=CC=C2)C(CC1)O | C31H29NO3
reactant | 4-methylmorpholine N-oxide | 38 mmol, 4.5 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 2.8 mmol, 1.0 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | N-trityl-3-keto-(L)-proline, benzyl ester | 6.5 g, 74% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1[C@H](C(=O)OCC2=CC=CC=C2)C(CC1)=O | C31H27NO3
